US06248765B1
(2-Fluoro-4-(3-(1H-imidazol-4-yl)propyloxy)phenyl)propanone
5 mmol of sodium 3-(1-triphenylmethyl-1H-imidazol-4-yl)propanolate and 10 mmol of (2,4-difluorophenyl)propanone are treated as described in Example 61 (method A).

reactant | sodium 3-(1-triphenylmethyl-1H-imidazol-4-yl)propanolate | 5 mmol | C1(=CC=CC=C1)C(N1C=NC(=C1)CCC[O-])(C1=CC=CC=C1)C1=CC=CC=C1.[Na+]
reactant | (2,4-difluorophenyl)propanone | 10 mmol | FC1=C(C=CC(=C1)F)CC(C)=O | C9H8F2O
product | (2-Fluoro-4-(3-(1H-imidazol-4-yl)propyloxy)phenyl)propanone | FC1=C(C=CC(=C1)OCCCC=1N=CNC1)CC(C)=O | C15H17FN2O2
